US07119207B2
1-Methanesulfonyl-6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde
To a flame dried round bottom flask equipped with a nitrogen cap was added 180 mg (1.35 mmol) aluminum chloride and 10 ml of methylene chloride. The mixture was stirred at ambient temperature for 0.25 hour and then cooled to 0° C. followed by the addition of 177 mg (0.69 mmol) 1-methanesulfonyl-6-methoxy-3,4-dihydro-1H-quinolin-2-one. The reaction mixture was stirred for 10 minutes at this temperature and was then treated with 171 μl (1.89 mmol) of α,α-dichloromethyl methyl ether before allowing the reaction to slowly warm to room temperature over 16 hours. The reaction mixture was quenched with 30 ml of 2M HCl and extracted with ethyl acetate (3×30 ml). The combined organics were then washed with saturated aqueous bicarbonate solution and brine followed by drying over sodium sulfate and evaporation in vacuo. The crude residue was purified on silica gel eluting with 95/5 methylene chloride/methanol to afford an off white solid in 66% yield (130 mg). Mass spectrum APCI m/e 284 (p+1).

reactant | aluminum chloride | 1.35 mmol, 180 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-methanesulfonyl-6-methoxy-3,4-dihydro-1H-quinolin-2-one | 0.69 mmol, 177 mg | CS(=O)(=O)N1C(CCC2=CC(=CC=C12)OC)=O | C11H13NO4S
reactant | α,α-dichloromethyl methyl ether | 1.89 mmol, 171 μl | COC(Cl)Cl | C2H4Cl2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-Methanesulfonyl-6-methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline-7-carbaldehyde | 66% yield | CS(=O)(=O)N1C(CCC2=CC(=C(C=C12)C=O)OC)=O | C12H13NO5S
